US07855290B2
N-(3-Fluoro-4-{[2-({[-4-(hydroxymethyl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(2-Aminopyridin-4-yl)oxy]-3-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (150 mg) was dissolved in tetrahydrofuran (4.0 ml) under a nitrogen atmosphere, and triethylamine (0.148 ml) and phenyl chloroformate (0.098 ml) were added dropwise at room temperature in this order, followed by stirring for 10 min. The reaction mixture was stirred after addition of ethyl acetate and water. The organic layer was separated, washed with a 1N aqueous solution of sodium hydroxide, water and brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (4.0 ml). 4-Piperidinemethanol (163 mg) was added at room temperature, followed by stirring for 2 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with a 1N aqueous solution of sodium hydroxide, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent; ethyl acetate, then ethyl acetate:methanol=95:5). Fractions containing the target compound were concentrated. To the resultant residue was added tert-butyl methyl ether:heptane=1:2 to precipitate a solid. The solid was collected by filtration and dried under aeration to provide the titled compound as white powder (143.7 mg, 72%).

reactant | N-{4-[(2-Aminopyridin-4-yl)oxy]-3-fluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 150 mg | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C22H18F2N4O3
reactant | triethylamine | 0.148 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.098 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 4.0 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(3-Fluoro-4-{[2-({[-4-(hydroxymethyl)piperidin-1-yl]carbonyl}amino)pyridin-4-yl]oxy}phenyl)-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 143.7 mg, 72% | FC=1C=C(C=CC1OC1=CC(=NC=C1)NC(=O)N1CCC(CC1)CO)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C29H29F2N5O5
